US07229943B2
Preparation of 2-Amino-3,6-dibromophenylamine
A mixture of 4,7-dibromo-2,1,3-benzothiadiazole (synthesized according to as described in K. Pilgram, J. Heterocycl. Chem., 7 (1970), 629) (16.0 g, 54.4 mmol) and NaBH4 (38.1 g, 1.0 mol) in 500 ml ethanol was stirred at room temperature for 30 hours. The solvent was evaporated and the residue mixed with 500 ml water. The obtained mixture was extracted into diethyl ether (5×150 ml). The combined extracts were washed with brine (2×100 ml) and dried over anhydrous Na2SO4. Evaporation of the solvent and drying under reduced pressure afforded 11.5 g (79.5%) of the product.

reactant | 4,7-dibromo-2,1,3-benzothiadiazole | 54.4 mmol, 16.0 g | BrC1=CC=C(C2=NSN=C21)Br | C6H2Br2N2S
reactant | NaBH4 | 1.0 mol, 38.1 g | [BH4-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-Amino-3,6-dibromophenylamine | 11.5 g, 79.5% | NC1=C(C(=CC=C1Br)Br)N | C6H6Br2N2
